US06599890B1
To a stirred solution of (2R,4R)-1-[3-(4-fluorophenoxy)-propane-1-sulfonyl]-piperidine-2,4-dicarboxylic acid 4-methyl ester (970 mg, 2.4 mmol) in 5 mL of methylene chloride was added triethylamine (1.0 mL, 7.2 mmol) and O-benzylhydroxylamine hydrochloride (410 mg, 2.64 mmol) at ambient temperature (22° C.) To the resulting solution was added benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (1.17 g, 2.64 mmol) and the mixture was stirred for 16 hours under a nitrogen atmosphere. The mixture was diluted with 25 mL of 1 N hydrochloric acid and 25 mL of ethyl acetate. The organic layer was removed and the aqueous layer was extracted with ethyl acetate (2×). The combined organic layers were washed with saturated aqueous sodium carbonate (1×) and brine (1×). The organic layer was dried (sodium sulfate), filtered, and the filtrate was concentrated in vacuo. Purification of the viscous yellow residue by flash chromatography (eluting with 1:1 ethyl acetate/hexanes) gave 810 mg of (2R,4R)-2-benzyloxycarbamoyl-1-[3-(4-fluorophenoxy)-propane-1-sulfonyl]-piperidine-4-carboxylic acid methyl ester as a clear oil.

reactant | (2R,4R)-1-[3-(4-fluorophenoxy)-propane-1-sulfonyl]-piperidine-2,4-dicarboxylic acid 4-methyl ester | 2.4 mmol, 970 mg | COC(=O)[C@H]1C[C@@H](N(CC1)S(=O)(=O)CCCOC1=CC=C(C=C1)F)C(=O)O | C17H22FNO7S
reactant | triethylamine | 7.2 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | O-benzylhydroxylamine hydrochloride | 2.64 mmol, 410 mg | Cl.C(C1=CC=CC=C1)ON
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 2.64 mmol, 1.17 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | hydrochloric acid | 1 N, 25 mL | Cl | ClH
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | (2R,4R)-2-benzyloxycarbamoyl-1-[3-(4-fluorophenoxy)-propane-1-sulfonyl]-piperidine-4-carboxylic acid methyl ester | 810 mg | COC(=O)[C@H]1C[C@@H](N(CC1)S(=O)(=O)CCCOC1=CC=C(C=C1)F)C(NOCC1=CC=CC=C1)=O | C24H29FN2O7S
